* ============================================================
* SM-50 +10 V - Validacion ideal
* Sin proyecto_pcb_models_TI_limpio.inc
* ============================================================

.include "sensor_SM50_10V.inc"

* Alimentacion B-Box
VPLUS   +15V_BBOX 0 DC 15
VMINUS  -15V_BBOX 0 DC -15

* Excitacion del puente
.param VEXC=10
VEXC_IDEAL VEXC_SM50 0 {VEXC}

* Sensor SM-50
.param SENS=3m
.param TQFS=2.2
.param TQ=0
.param RBRIDGE=350

XSM50 SIGP SIGN VEXC_SM50 0 SM50_IDEAL PARAMS: SENS={SENS} TQ={TQ} TQFS={TQFS} RBRIDGE={RBRIDGE}

* Filtro de entrada
RINP SIGP INA_INP 49.9
RINN SIGN INA_INN 49.9
CDIFF INA_INP INA_INN 10n

* INA826 idealizado
.param RG_SM=340
.param G_SM={1+49.4k/RG_SM}
.param VREFINA=0
BINA OUT_INA 0 V={limit(G_SM*V(INA_INP,INA_INN)+VREFINA,-14,14)}

* Filtro de salida a B-Box
ROUT OUT_INA VOUT_FILT 10k
COUTF VOUT_FILT 0 33n
RBBOX VOUT_FILT OUT_SM50_BBOX 50
RBBOX_IN OUT_SM50_BBOX 0 10Meg

* Barrido de torque
.step param TQ -2.2 2.2 0.55
.op

* Medidas
.meas OP VDIFF_BRIDGE PARAM V(SIGP,SIGN)
.meas OP VOUT_FINAL PARAM V(OUT_SM50_BBOX)
.meas OP GAIN_INA PARAM {G_SM}
.meas OP IBRIDGE_PARAM PARAM {VEXC/RBRIDGE}
.meas OP PBRIDGE_PARAM PARAM {VEXC*VEXC/RBRIDGE}

.end
